US09107964B2
459 mg (1.64 mmol equivalents) of 5-benzyloxyethyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane was dissolved in 8 mL of dimethylformamide, 197 mg (3.20 mmol equivalents) of imidazole and 0.51 mL (1.92 mmol equivalents) of t-butyldiphenylchlorosilane were added thereto, and the mixture was stirred at room temperature (25° C.) for 22 hours. After completion of the reaction, a saturated aqueous solution of ammonium chloride was added thereto, and the mixture was extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with water and brine, then dried with anhydrous magnesium sulfate, and subsequently concentrated under vacuum. The obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=20/1) to give 570 mg (1.56 mmol equivalents) of 5-benzyloxyethyl-2,2-dimethyl-5-(t-butyldiphenylsiloxymethyl)-1,3-dioxane.

reactant | 5-benzyloxyethyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane | 1.64 mmol, 459 mg | C(C1=CC=CC=C1)OCCC1(COC(OC1)(C)C)CO | C16H24O4
reactant | imidazole | 3.20 mmol, 197 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylchlorosilane | 1.92 mmol, 0.51 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 5-benzyloxyethyl-2,2-dimethyl-5-(t-butyldiphenylsiloxymethyl)-1,3-dioxane | 1.56 mmol, 570 mg | C(C1=CC=CC=C1)OCCC1(COC(OC1)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42O4Si
